US08241615B2
Benzophenone-12
Diethylaminohydroxybenzoylhexyl benzoate sold under the trade name “Uvinul A Plus” by BASF,

reactant | Diethylaminohydroxybenzoylhexyl benzoate | C(C1=CC=CC=C1)(=O)OCCCCCC(C(C1=CC=CC=C1)=O)(O)N(CC)CC | C24H31NO4
reactant | Uvinul A Plus | CCCCCCOC(=O)C1=CC=CC=C1C(=O)C2=C(C=C(C=C2)N(CC)CC)O | C24H31NO4
product | Benzophenone-12 | CCCCCCCCOC1=CC(=C(C=C1)C(=O)C2=CC=CC=C2)O | C21H26O3
